US06080886
A solution of benzoyl chloride (141 mg, 1 mmol) in CH2Cl2 (5.0 mL) was added to bis(methoxyethyl)aminosulfur trifluoride (567 mg, 3.0 mmol ) under N2 and stirred for 16 h at room temperature. After work-up as above benzoyl fluoride (124 mg, quantitative yield) was obtained. The product was identified by g.c.m.s. M+ =24

reactant | benzoyl chloride | 1 mmol, 141 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | bis(methoxyethyl)aminosulfur trifluoride | 3.0 mmol, 567 mg | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | benzoyl fluoride | 124 mg, quantitative yield | C(C1=CC=CC=C1)(=O)F | C7H5FO
